US06399660B1
To a stirred solution of 4-(2-bromoethyl)-3-chlorophenol (158 mg) in acetone (7 ml) were added potassium carbonate (139 mg) and ethyl bromoacetate (89 μl) at room temperature. After the mixture was stirred for 20 hours at room temperature, the insoluble material was filtered off and the filtrate was concentrated in vacuo. Purification of the residue by medium pressure liquid column chromatography on silica gel (eluent: hexane/ethyl acetate 7/1) gave ethyl 2-[4-(2-bromoethyl)-3-chlorophenoxy]acetate (193 mg).

reactant | 4-(2-bromoethyl)-3-chlorophenol | 158 mg | BrCCC1=C(C=C(C=C1)O)Cl | C8H8BrClO
reactant | potassium carbonate | 139 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 89 μl | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 7 ml | CC(=O)C | C3H6O
product | ethyl 2-[4-(2-bromoethyl)-3-chlorophenoxy]acetate | 193 mg | BrCCC1=C(C=C(OCC(=O)OCC)C=C1)Cl | C12H14BrClO3
